US07214824B2
28(d): 2-[4-tert-Butyl-2-(piperidine-1-ylmethyl)phenoxy]-N-((1R)-1-{3-methyl-4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide
To a methylene dichloride (5.0 ml) solution of [4-tert-butyl-2-(piperidin-1-ylmethyl)phenoxy]acetic acid (111 mg) and N-{4-[(1R)-1-aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride (97 mg, 0.37 mmol), a portion of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (109 mg, 0.57 mmol), triethylamine (0.2 ml, 1.4 mmol), and catalytic amount of 4-(dimethylamino)pyridine were added at ambient temperature under nitrogen atmosphere. After being stirred for 18 hours, the reaction mixture was diluted with methylene dichloride and quenched with saturated aqueous solution of ammonium chloride. The organic layer was then washed with brine and dried over magnesium sulfate. After filtration to separate solvent and magnesium sulfate, the solvent was removed under reduced pressure, which was applied to an amino bound silica gel chromatography column and eluted with methylene dichloride/methanol=40/1 to give oil which contained 4-(dimethylamino)pyridine. This crude product was purified by HPLC gradient from 0.05% aqueous solution of ammonium formate/acetonitrile=4/96 to 96/4 to furnish 9.1 mg (5% yield) of the title compound as a white solid.

reactant | [4-tert-butyl-2-(piperidin-1-ylmethyl)phenoxy]acetic acid | 111 mg | C(C)(C)(C)C1=CC(=C(OCC(=O)O)C=C1)CN1CCCCC1 | C18H27NO3
reactant | N-{4-[(1R)-1-aminoethyl]-2-methylphenyl}methanesulfonamide hydrochloride | 0.37 mmol, 97 mg | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.57 mmol, 109 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 5.0 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-tert-Butyl-2-(piperidine-1-ylmethyl)phenoxy]-N-((1R)-1-{3-methyl-4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide | 9.1 mg, 5% yield | C(C)(C)(C)C1=CC(=C(OCC(=O)N[C@H](C)C2=CC(=C(C=C2)NS(=O)(=O)C)C)C=C1)CN1CCCCC1 | C28H41N3O4S
